US03957988
2,7-Bis[5-(diethylamino)valeryl]thioxanthene dihydrochloride
A mixture of 20 g (0.0046 mole) of 2,7-bis(5-chlorovaleryl)-thioxanthene, 2 g of potassium iodide, 150 ml of diethylamine and 250 ml of tetrahyrofuran was heated to 106°C. in a Paar bomb for 24 hours with stirring. Upon cooling, the solvent was evaporated, and the remaining material was dissolved in heptane and filtered. The solution was acidified with ethereal HCl and the resulting precipitate was recrystallized several times from methanol and ethyl acetate to give the desired product. M.P. 197.5°-199.5°C.

reactant | 2,7-bis(5-chlorovaleryl)-thioxanthene | 0.0046 mole, 20 g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCCl)=O | C23H24Cl2O2S
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | diethylamine | 150 ml | C(C)NCC | C4H11N
solvent | tetrahyrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2,7-Bis[5-(diethylamino)valeryl]thioxanthene dihydrochloride | Cl.Cl.C(C)N(CCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCN(CC)CC)=O)CC | InChI=1S/C31H44N2O2S.2ClH/c1-5-32(6-2)19-11-9-13-28(34)24-15-17-30-26(21-24)23-27-22-25(16-18-31(27)36-30)29(35)14-10-12-20-33(7-3)8-4;;/h15-18,21-22H,5-14,19-20,23H2,1-4H3;2*1H
